US08207168B2
5-(4-Methoxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one was prepared from 5-(4-methoxy-phenyl)-6-methyl-2H-pyridazin-3-one and 2-bromopyridine in the presence of copper iodide using the procedure described in Example 98 Step 2; Mp 156-7° C.; MS m/z 294 (M+H).

reactant | 5-(4-methoxy-phenyl)-6-methyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=CC(NN=C1C)=O | C12H12N2O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
catalyst | copper iodide | [Cu](I)I
product | 5-(4-Methoxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=CC(N(N=C1C)C1=NC=CC=C1)=O | C17H15N3O2
